US05859035
Step B: 2-Bromo-1-o-tolyl-propan-1-one
To a 50 ml round bottomed flask with stirring bar and an argon inlet was added CH3Cl (10 ml), THF (5 ml), 1-o-tolyl-propan-1-one (318 mg, 2.14 mmol, and pyridium bromide perbromide (735 mg, 2.36 mmol). This solution was stirred at ambient temperature for 2 h. The reaction mixture was washed with 5% aqueous HCl, H2O, and brine. Drying (MgSO4), filtration and removal of sovent in vacuo gave an oil. This material was chromatographed (Silica gel, 5% EtOAc/Hexane) to affort the title product.

reactant | CH3Cl | 10 ml | CCl | CH3Cl
reactant | 1-o-tolyl-propan-1-one | C1(=C(C=CC=C1)C(CC)=O)C | C10H12O
reactant | pyridium bromide | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.[Br-]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-Bromo-1-o-tolyl-propan-1-one | BrC(C(=O)C1=C(C=CC=C1)C)C | C10H11BrO
